US04020057
To a solution of 5 g. (22.5 mmol.) of 3,5-di-t-butylcatechol in 75 ml. of ether at 0° was added 25 g. of silver oxide. The reaction mixture was stirred at 0° for 30 minutes then at ambient temperature for an additional 30 minutes. The mixture was filtered and the filtrate was evaporated to dryness. Benzene was added to the residue and the resulting precipitate was collected by filtration and air dried to give 3,5-di-t-butyl-1,2-dioxobenzene, m.p. 110°-112°.

reactant | 3,5-di-t-butylcatechol | 22.5 mmol | C(C)(C)(C)C1=C(C(O)=CC(=C1)C(C)(C)C)O | C14H22O2
catalyst | silver oxide | [Ag]=O
solvent | ether | CCOCC | C4H10O
product | 3,5-di-t-butyl-1,2-dioxobenzene | C(C)(C)(C)C=1C(C(C=C(C1)C(C)(C)C)=O)=O | C14H20O2
